* Component Created by Javier Petrucci and Agustin Gullino
* jpetrucc@itba.edu.ar / agullino@itba.edu.ar
*
* VCO


.SUBCKT VCO      Vin_VCO   Vo_Vco   VCC   GND  V_freq

C2 Vc GND 0.25 IC=0
B1 GND Vc I= V(V_freq) * (2 * U( (2*U(I(B1))-1) - V(Vc)) - 1)
R1 Vin_VCO GND 1Meg
B2 N001 GND V= Delta_F * ( V(V_off) / V(Vcc) )
B3 Vo_Vco GND V=V(Vcc) * U(V(Vc))
V2 V_freq N001 {F_min}
B6 V_off GND V= (V(Vin_VCO) * ((V(Vcc)+1)/V(Vcc)) - 1 ) * U(V(Vin_VCO) * ((V(Vcc)+1)/V(Vcc)) - 1)
R2 Vcc GND 1Meg

.ends VCO

*