* Component Created by Javier Petrucci and Agustin Gullino
* jpetrucc@itba.edu.ar / agullino@itba.edu.ar
*
* VCO
.SUBCKT VCO      Vin_VCO   Vo_Vco   VCC   GND  V_freq

C2 Vc 0 0.25 IC=0
B1 0 Vc I= V(V_freq) * (2 * U( (2*U(I(B1))-1) - V(Vc)) - 1)
R1 Vin_VCO 0 1Meg
B2 N001 0 V= Delta_F * ( V(V_off) / V(Vcc) )
B3 Vo_Vco 0 V=V(Vcc) * U(V(Vc))
V2 V_freq N001 {F_min}
B6 V_off 0 V= ( ( V(Vin_VCO) - Vi_min ) * V(Vcc)/(V(Vcc)-Vi_min ) ) * U( V(Vin_VCO) - Vi_min )
R2 Vcc 0 1Meg

.ends VCO

*